US07732604B2
To a solution of the 6-[6-(1-ethoxy-vinyl)-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl]-quinoline (1.0 g, 3.00 mmol) in ACN (50 mL), was added 2 N HCl dropwise. The reaction was refluxed for 1 hour, and then neutralized with NaHCO3. The solution was extracted with EtOAc (3×100 mL) to give the product 1-(3-quinolin-6-ylmethyl-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)-ethanone (950 mg, 99% yield).

reactant | 6-[6-(1-ethoxy-vinyl)-[1,2,3]triazolo[4,5-b]pyrazin-1-ylmethyl]-quinoline | 3.00 mmol, 1.0 g | C(C)OC(=C)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C18H16N6O
reactant | HCl | 2 N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ACN | 50 mL | C(C)#N | C2H3N
product | 1-(3-quinolin-6-ylmethyl-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)-ethanone | 950 mg, 99% yield | N1=CC=CC2=CC(=CC=C12)CN1N=NC2=NC=C(N=C21)C(C)=O | C16H12N6O
